US04093812
Add 2.0 g of [3-(5-nitro-2-furyl)-1-phenylpyrazol-4-ylmethylene]dimethylammonium perchlorate, 0.4 g. of anhydrous sodium acetate and 0.63 g of ethyl carbazate to 10.5 ml of dimethylformamide. Stir the resulting admixture for 30 minutes before adding 30 ml of water dropwise thereto to obtain a 95% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde-ethoxycarbonylhydrazone [m.p. 200° to 201° C].

reactant | [3-(5-nitro-2-furyl)-1-phenylpyrazol-4-ylmethylene]dimethylammonium perchlorate | 2.0 g | Cl(=O)(=O)(=O)[O-].[N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C=[N+](C)C)C1=CC=CC=C1
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | ethyl carbazate | 0.63 g | C(NN)(=O)OCC | C3H8N2O2
reactant | dimethylformamide | 10.5 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde-ethoxycarbonylhydrazone | 95% yield | C(C)OC(=O)NN=CC=1C(=NN(C1)C1=CC=CC=C1)C=1OC(=CC1)[N+](=O)[O-] | C17H15N5O5
